US06492416B1
200 mg of 4bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone was coupled with 114 mg of naphthalene-1-boronic acid by a procedure similar to the procedure employed for Example 2 to afford 2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-4-(1-naphthyl)-3(2H)-furanone as a solid. mp: 194-195° C. NMR: δ1.67 (s, 3H), 1.71 (s, 3H), 2.97 (s, 3H), 7.33-7.43 (m, 2H), 7.48-7.60 (m, 2H), 7.51-7.52 (m, 1H), 7.66-7.69 (m, 2H), 7.76-7.78 (m, 2H), 7.90-7.94 (m, 2H), IR (cm−1): 1698, 1404, 1318, 1149, 1092, 772.

reactant | 4bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 200 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | naphthalene-1-boronic acid | 114 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-4-(1-naphthyl)-3(2H)-furanone | CC1(OC(=C(C1=O)C1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)C)C | C23H20O4S
